* d:\esim-workspace\four_bit_pc\four_bit_pc.cir

* u3  net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ v1 v2 v3 v4 ov dac_bridge_5
r1  ov gnd esim_r
r2  v4 gnd esim_r
r3  v3 gnd esim_r
r4  v2 gnd esim_r
r5  v1 gnd esim_r
v1 in1 gnd  dc 5
v2 in2 gnd  dc 5
v3 in3 gnd  dc 5
v4 in4 gnd  dc 5
v5  clk gnd pulse(0 5 1n 1n 1n 1u 2u)
* u4  ov plot_v1
* u5  v4 plot_v1
* u6  v3 plot_v1
* u7  v2 plot_v1
* u8  v1 plot_v1
v8 rst gnd  dc 0
* u1  in1 in2 in3 in4 clk ld inc rst net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ adc_bridge_8
v6  ld gnd pwl(0 5 9.99e-7 5 1u 0 2u 0)
v7  inc gnd pwl(0 0 9.99e-7 0 1u 5 2u 5)
* u2  net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ four_bit_pc
* u15  inc plot_v1
* u16  rst plot_v1
* u9  in1 plot_v1
* u10  in2 plot_v1
* u11  in3 plot_v1
* u12  in4 plot_v1
* u13  clk plot_v1
* u14  ld plot_v1
a1 [net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ ] [v1 v2 v3 v4 ov ] u3
a2 [in1 in2 in3 in4 clk ld inc rst ] [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ ] u1
a3 [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ ] [net-_u1-pad13_ ] [net-_u1-pad14_ ] [net-_u1-pad15_ ] [net-_u1-pad16_ ] [net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ ] [net-_u2-pad13_ ] u2
* Schematic Name:                             dac_bridge_5, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             four_bit_pc, NgSpice Name: four_bit_pc
.model u2 four_bit_pc(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 1e-06 6e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(ov)
plot v(v4)
plot v(v3)
plot v(v2)
plot v(v1)
plot v(inc)
plot v(rst)
plot v(in1)
plot v(in2)
plot v(in3)
plot v(in4)
plot v(clk)
plot v(ld)
.endc
.end
